### PR TITLE
add `erdos_340`

### PR DESCRIPTION
**Pull request by smmercuri**
addresses #499

### CODE REVIEW

File: FormalConjectures/ErdosProblems/340.lean [hunk 1]
```diff
@@ -0,0 +1,153 @@
...
+Let $A = \{1, 2, 4, 8, 13, 21, 31, 45, 66, 81, 97, \ldots\}$ be the greedy Sidon sequence:
+we begin with $1$ and iteratively include the next smallest integer that preserves the
+Sidon property (i.e. there are no non-trivial solutions to $a + b = c + d$). What is the
+order of growth of $A$? Is it true that $| A \cap\{1, \ldots, N\}| \gg N^{1/2−\varepsilon}$
+for all $\varepsilon > 0$ and large $N$?
+-/
+@[category research open, AMS 5]
+theorem erdos_340 (ε : ℝ) (hε : ε > 0) :
+    (fun n : ℕ ↦ √n / n ^ ε) =O[atTop]
+      fun n : ℕ ↦ ((Set.range greedySidon ∩ Set.Iio n).ncard : ℝ) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/340.lean]: Shouldn't we be taking `{1, ..., n}` rather than `{0, ..., n-1}`?
```suggestion
      fun n : ℕ ↦ ((Set.range greedySidon ∩ Set.Icc 1 n).ncard : ℝ) := by
```

File: FormalConjectures/ErdosProblems/340.lean [hunk 2]
```diff
@@ -0,0 +1,153 @@
...
+
+@[category test, AMS 5]
+example : greedySidon 10 = 97 := by
+  decide +native
+
+/--
+Let $A = \{1, 2, 4, 8, 13, 21, 31, 45, 66, 81, 97, \ldots\}$ be the greedy Sidon sequence:
+we begin with $1$ and iteratively include the next smallest integer that preserves the
+Sidon property (i.e. there are no non-trivial solutions to $a + b = c + d$). What is the
+order of growth of $A$? Is it true that $| A \cap\{1, \ldots, N\}| \gg N^{1/2−\varepsilon}$
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/340.lean:97]: Is there a reasonable `erdos.parts.something` statement that could be made for the line "What is the order of growth of $A$?" in the informal statement? (with `answer(sorry)` as the growth function?)

File: FormalConjectures/ErdosProblems/340.lean [hunk 3]
```diff
@@ -0,0 +1,153 @@
...
+/--
+The smallest integer which is unknown to be in $A - A$ is $33$.
+ -/
+@[category research open, AMS 5]
+theorem erdos_340.variants._33_mem_sub :
+    33 ∈ Set.range greedySidon - Set.range greedySidon ↔ answer(sorry) :=
+  sorry
+
+/--
+It may be true that all or almost all integers are in $A - A$.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/340.lean:165]: Would it be reasonable to add another related variant stating that the complement has density 0?

File: FormalConjectures/ErdosProblems/340.lean (hunk 2 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/340.lean:97]: Yes, have added an `isTheta` variant

File: FormalConjectures/ErdosProblems/340.lean (hunk 3 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/340.lean:165]: That's probably more likely what is meant by "almost all", added!

File: FormalConjectures/ErdosProblems/340.lean [hunk 4]
```diff
@@ -0,0 +1,175 @@
...
+-/
+@[category research open, AMS 5]
+theorem erdos_340.variants.cofinite_sub :
+    (∀ᶠ n in cofinite, n ∈ Set.range greedySidon - Set.range greedySidon) ↔ answer(sorry) :=
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/340.lean:171]: For these two, what do you think of adding a formalisation note indicating that there is some ambiguity in translating the "almost all" (and that there may be other reasonable non-equivalent formulations of this problem out there)

File: FormalConjectures/ForMathlib/Combinatorics/Basic.lean [hunk 5]
```diff
@@ -34,3 +36,65 @@ lemma IsSidon.avoids_isAPOfLength_three {α : Type*} [AddCommMonoid α] (A : Set
 noncomputable def maxSidonSetSize (N : ℕ) : ℕ :=
   sSup {(A.card) | (A : Finset ℕ) (_ : A ⊆ Finset.Icc 1 N) (_ : IsSidon A.toSet)}
 
+theorem IsSidon.subset {A B : Set ℕ} (hB : IsSidon B) (hAB : A ⊆ B) : IsSidon A :=
+  fun _ _ _ _ _ _ _ _ _ ↦ hB _ (hAB ‹_›) _ (hAB ‹_›) _ (hAB ‹_›) _ (hAB ‹_›) ‹_›
```
Comment (Paul-Lez) [inline FormalConjectures/ForMathlib/Combinatorics/Basic.lean:43]: That's a little cursed, but I'll allow it:)
